US05721245
A solution of 85 mg of 3-[7-t-butoxyformamido-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione in 5 ml of dimethylformamide and 5 ml of 33% aqueous ammonia was heated to 100° C. for 1 hour. The cooled mixture was partitioned between ethyl acetate and water. The organic phase was washed with water, dried and evaporated. Crystallization from ethyl acetate/n-hexane gave 70 mg of 3-[7-t-butoxyformamido-6,7,8,9-tetrahydro-pyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione of melting point 159°-163° C.

reactant | 3-[7-t-butoxyformamido-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 85 mg | C(C)(C)(C)OC(=O)NC1CCC=2N(C3=CC=CC=C3C2C=2C(OC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)C1 | C30H29N3O5
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ammonia | 5 ml | N | H3N
product | 3-[7-t-butoxyformamido-6,7,8,9-tetrahydro-pyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 70 mg | C(C)(C)(C)OC(=O)NC1CCC=2N(C3=CC=CC=C3C2C=2C(NC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)C1 | C30H30N4O4
